US05627270
27.1. Methyl Cholate (2)
To a solution of cholic acid (300 g, 0.73 mol) in 1.1 L methanol is added boron trifloride etherate. The mixture is refluxed for 1 h. After cooling, a solid precipitate 2 is collected by filtration. The mother liquor is kept in a refrigerator to give another crop of product The combined product (295 g, 95%) is dried under vacuum and used for the next reaction without further purification.

reactant | cholic acid | 0.73 mol, 300 g | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C | C24H40O5
reactant | boron trifloride etherate | B(F)(F)F.CCOCC
solvent | methanol | 1.1 L | CO | CH4O
product | Methyl Cholate | 295 g, 95% | C[C@H](CCC(=O)OC)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C | C25H42O5
